US06982274B2
6-Fluoro-3-naphthalen-2-yl-1H-indazole-5-carbonitrile
A total of 2.1 g of 2,4-difluoro-5-(naphthalene-2-carbonyl)-benzonitrile was allowed to react with hydrazine monohydrate by the procedure of Production Example II-10-c and thereby yielded 1.6 g of the title compound as a colorless powder. 1H-NMR (400 MHz, DMSO-d6) δ 7.53-7.61 (2H, m), 7.72 (1H, d, J=9.6 Hz), 7.93-7.98 (1H, m), 8.03 (1H, d, J=8.5 Hz), 8.14-8.19 (1H, m), 8.18 (1H, d, J=8.5 Hz), 8.65 (1H, s), 9.03 (1H, d, J=6.0 Hz), 13.83-13.97 (1H, bs).

reactant | 2,4-difluoro-5-(naphthalene-2-carbonyl)-benzonitrile | 2.1 g | FC1=C(C#N)C=C(C(=C1)F)C(=O)C1=CC2=CC=CC=C2C=C1 | C18H9F2NO
reactant | hydrazine monohydrate | O.NN
product | 6-Fluoro-3-naphthalen-2-yl-1H-indazole-5-carbonitrile | 1.6 g | FC1=C(C=C2C(=NNC2=C1)C1=CC2=CC=CC=C2C=C1)C#N | C18H10FN3
